US07105508B1
tert-Butyl 3H-imidazo[4,5-b]pyridin-2-ylmethylcarbamate (9)
A mixture of tert-butyl cyanomethylcarbamate (1.61 g; 10 mmol), 2,3-diaminopyridine (0.56 g; 5 mmol), N-acetylcysteine (1.68 g; 10 mmol) in 10 ml of CH3OH was heated at 50° C. for 89 h. It was then concentrated, and the residue was taken up in a little CH3OH and filtered through an acidic ion exchanger (acetate on polymeric support). Renewed concentration and chromatography on silica gel (CH2Cl2/CH3OH 5%) afforded 1.09 g of the required product;

reactant | tert-butyl cyanomethylcarbamate | 10 mmol, 1.61 g | C(#N)CNC(OC(C)(C)C)=O | C7H12N2O2
reactant | 2,3-diaminopyridine | 5 mmol, 0.56 g | NC1=NC=CC=C1N | C5H7N3
reactant | N-acetylcysteine | 10 mmol, 1.68 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | CH3OH | 10 ml | CO | CH4O
product | tert-Butyl 3H-imidazo[4,5-b]pyridin-2-ylmethylcarbamate | 1.09 g | N1=C(NC2=NC=CC=C21)CNC(OC(C)(C)C)=O | C12H16N4O2
